US04014907
3Hydroxy-5-methyl-2-nitro-1,4-naphthoquinone
A solution of 3-hydroxy-5methyl-1,4-naphthoquinone (1.9g) in chloroform (200ml) was nitrated with fuming nitric acid according to example 1(a). A yield of 1.01g (43%) of material of m.p. 148°-149° C (d) was obtained. (Found; C, 56,69; H, 3.16; N, 5.73; C11H7NO5 requires; C, 56.66; H, 3.03; N, 6.01%).

reactant | 3-hydroxy-5methyl-1,4-naphthoquinone | 1.9g | OC1=CC(C2=CC=CC(=C2C1=O)C)=O | C11H8O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | chloroform | 200ml | C(Cl)(Cl)Cl | CHCl3
product | 3Hydroxy-5-methyl-2-nitro-1,4-naphthoquinone | yield of 1.01g, 43% | OC1=C(C(C2=CC=CC(=C2C1=O)C)=O)[N+](=O)[O-] | C11H7NO5
